datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([C:10](=[C:11]([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:9]([C:10](=[C:11]([H:15])[H:16])[H:14])([H:12])[H:13],82.1319
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]1([H:19])([H:20])[C:13]([H:21])([H:22])[C:14]2([H:23])[C:15]([H:24])([H:25])[C:16]([H:26])([H:27])[C:17]1([H:28])[C:18]2([H:29])[H:30]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:23])[H:5].[C:12]1([H:19])([H:20])[C:13]([H:21])([H:22])[C:14]2[C:15]([H:24])([H:25])[C:16]([H:26])([H:27])[C:17]1([H:28])[C:18]2([H:29])[H:30],95.1442
[C:0]([N+:1](=[O:2])[O-:3])([H:4])([H:5])[H:6]>>[C:0]([H:4])([H:5])[H:6].[N+:1](=[O:2])[O-:3],261.073232
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9](=[S:10])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:8]([C:9](=[S:10])[H:13])([H:11])[H:12],82.0064
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])=[C:9]([C:10]([H:23])([H:24])[H:25])[H:22])([H:17])[H:18])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])[C:9]1([C:10]([H:23])([H:24])[H:25])[H:22])[H:11],75.1865
[C:0]([C:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:7])[H:8].[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24]>>[C:0]([C:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:7])([H:8])[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24],0.0
[N:0]([O:1])([H:2])[H:3].[O:4]>>[H:2][O:4].[N:0](=[O:1])[H:3],2.05016
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12](=[C:13]([c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])[H:24])[H:23])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:13]([C:12]([C:11]([H:20])([H:21])[H:22])[H:23])([c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])[H:24])[H:6])([H:4])[H:5],59.7475
[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[H:9]>>[C:0]([H:3])([H:4])[H:5].[O:1]([C:2]([H:6])([H:7])[H:8])[H:9],101.985
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]=[C:12]([H:14])[H:15])[H:13]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:10](=[C:11]=[C:12]([H:14])[H:15])[H:13],76.9856
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:11])([H:12])[H:13].[O:34][H:35]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[H:11][O:34][H:35],0.0
[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:5])([H:6])[H:7].[H:11]>>[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:6])[H:7].[H:5][H:11],10.41816
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:11]([C:10]([H:18])([H:19])[H:20])([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21],43.3295
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0]([S:1][C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9])([H:2])([H:3])[H:4].[H:5],65.6888
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10]([C:9]([H:17])([H:18])[H:19])([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20],46.8608
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17](=[O:18])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5][H:24])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]=[O:18])([H:22])[H:23])([H:19])([H:20])[H:21],56.9024
[C:0](#[N:1])[H:2].[H:3]>>[C:0](=[N:1][H:3])[H:2],31.2126
